US07981903B2
N2,N2-dimethyl-N1-[2-methyl-4-(methyloxy)-5-nitrophenyl]glycinamide (0.642 mg, 2.4 mmol) was suspended in methanol (20 ml) and Pd/C (65 mg) was added. The reaction vessel was subjected to H2 at 60 psi on a Fisher Porter apparatus. After stirring overnight, the reaction was not complete so more Pd (from a new bottle) was added and the vessel resubjected to H2 at 60 psi on a Fisher Porter apparatus for an additional 18 h. Pd/C was removed from the reaction by filtering through a pad of celite and washing with MeOH. Solvents were removed under reduced pressure and the residue was purified by SiO2 chromatography to afford N1-[5-amino-2-methyl-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide (435 mg, 1.83 mmol) as a orange solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.05 (s, 3 H) 2.30 (s, 6 H) 3.00 (s, 2 H) 3.72 (s, 3 H) 4.54 (s, 2 H) 6.62 (s, 1 H) 6.90 (s, 1 H) 8.97 (s, 1 H).

reactant | N2,N2-dimethyl-N1-[2-methyl-4-(methyloxy)-5-nitrophenyl]glycinamide | 2.4 mmol, 0.642 mg | CN(CC(=O)NC1=C(C=C(C(=C1)[N+](=O)[O-])OC)C)C | C12H17N3O4
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 65 mg | [Pd] | Pd
product | N1-[5-amino-2-methyl-4-(methyloxy)phenyl]-N2,N2-dimethylglycinamide | 1.83 mmol, 435 mg | NC=1C(=CC(=C(C1)NC(CN(C)C)=O)C)OC | C12H19N3O2
